*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-02[uF]/50[V]
* Murata P/N :GCM155R71H683KE02
* Property : C = 6.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71H683KE02 Port1 Port2
C01 Port1 N01 6.77e-08
R01 Port1 N01 7.35e+08
L02 N01 N02 1.68e-10
R03 N02 N03 1.69e-02
C04 N03 N04 8.57e-06
R04 N03 N04 4.64e+02
C05 N04 N05 1.24e-05
R05 N04 N05 6.26e+01
C06 N05 N06 1.31e-05
R06 N05 N06 1.17e+01
C07 N06 N07 9.24e-06
R07 N06 N07 2.80e+00
C08 N07 N08 7.13e-06
R08 N07 N08 4.02e-01
C09 N08 N09 5.92e-06
R09 N08 N09 4.77e-02
C10 N09 N10 5.99e-06
R10 N09 N10 1.02e-02
L11 N10 N11 2.25e-11
R11 N10 N11 1.66e-01
L12 N11 N12 9.85e-11
R12 N11 N12 7.69e-02
C13 N12 N13 1.46e-06
L13 N12 N13 4.36e-12
R13 N12 N13 7.34e-03
C14 N13 N14 1.24e-07
L14 N13 N14 2.54e-11
R14 N13 N14 2.53e-02
C15 N14 Port2 5.15e-12
L15 N14 Port2 4.98e-11
R15 N14 Port2 1.09e+01
.ENDS GCM155R71H683KE02
